US08557809B2
Step E: Preparation of 8-bromo-6-fluoroquinoline-2-carbaldehyde
(8-bromo-6-fluoroquinolin-2-yl)methanol (2 g, 7.8 mmol), DMSO (8.9 mL, 125.0 mmol), and TEA (4.9 mL, 35 mmol) were weighed into a flask and dissolved in a 10 mL of DCM, followed by cooling to 0° C. Pyridinium sulfate (4.351 g, 27.3 mmol) was added and the reaction stirred 0° C. for 1 hour. The reaction was poured onto 50 mL water and extracted with ethyl acetate. The combined organics were then dried over MgSO4, then concentrated in vacuo affording a yellow/white semi-solid, which was further purified by triturating with 20% ethyl acetate/Hexanes, affording the desired product as a tan solid (1.35 g, 68% yield).

reactant | (8-bromo-6-fluoroquinolin-2-yl)methanol | 7.8 mmol, 2 g | BrC=1C=C(C=C2C=CC(=NC12)CO)F | C10H7BrFNO
reactant | DMSO | 125.0 mmol, 8.9 mL | CS(=O)C | C2H6OS
reactant | Pyridinium sulfate | 27.3 mmol, 4.351 g | S(=O)(=O)([O-])[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | 50 mL | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 8-bromo-6-fluoroquinoline-2-carbaldehyde | 1.35 g, 68% yield | BrC=1C=C(C=C2C=CC(=NC12)C=O)F | C10H5BrFNO
